US06864255B2
To (1-benzyl-1H-indazol-5-yl)-(4-chloro-[1,3,5]triazin-2-yl)amine (473 mg, 1.40 mmol) in DMF (7.5 ml) at 0° C. was added MeI (0.262 mL, 4.21 mmol), followed by NaH (60% dispersion in oil)(67.4 mg, 1.69 mmol). The resulting mixture was stirred at 0° C. for 4.25 h. An additional 10 mg NaH was added after 3.1 h as TLC indicated remaining starting material. At this point, the reaction mixture was quenched with sat'd aq NH4Cl and diluted with water and EtOAc. The organic layer was washed with water and brine. The aqueous layer and washings were extracted once with EtOAc. The combined organics were dried, concentrated and purified by chromatography (SiO2, elution with 1:1 EtOAc-hexanes) to give N-methyl-(1-benzyl-1H-indazol-5-yl)-(4-chloro-[1,3,5]triazin-2-yl)amine as a pale oil: MS m/z=351 [M+H]+. Calc'd for C18H15ClN6: 350.10.

reactant | (1-benzyl-1H-indazol-5-yl)-(4-chloro-[1,3,5]triazin-2-yl)amine | 1.40 mmol, 473 mg | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC(=N1)Cl | C17H13ClN6
reactant | MeI | 4.21 mmol, 0.262 mL | CI | CH3I
reactant | NaH | 1.69 mmol, 67.4 mg | [H-].[Na+]
reactant | NaH | 10 mg | [H-].[Na+]
solvent | DMF | 7.5 ml | CN(C)C=O | C3H7NO
product | N-methyl-(1-benzyl-1H-indazol-5-yl)-(4-chloro-[1,3,5]triazin-2-yl)amine | CN(C1=NC=NC(=N1)Cl)C=1C=C2C=NN(C2=CC1)CC1=CC=CC=C1 | C18H15ClN6
